US07141102B2
20 g of EDTA.
Na salt (Product name: Kurewatto, produced by Teikoku Chemical Industries Co., Ltd.), 14 g of dodecanedioic acid, 10 g of tolyltriazole (product name: TT-130, produced by Jouhoku Chemical Industries Co., Ltd.), 75 g of caprylic acid, 75 g of oleic acid, 130 g of aqueous potassium hydroxide solution (33% diluted, pH11 to pH13) and 40 g of dipropylene glycol, 10 g of chlorogenic acid water (a solution prepared by diluting 1 g of chlorogenic acid produced by Wako Chemical Co. with 4 liters of distilled water), and 626 g of water were prepared and mixed to make a solution B-3.

reactant | dodecanedioic acid | 14 g | C(CCCCCCCCCCC(=O)O)(=O)O | C12H22O4
reactant | tolyltriazole | 10 g | C1(=C(C=CC=C1)C=1N=NNC1)C | C9H9N3
reactant | caprylic acid | 75 g | C(CCCCCCC)(=O)O | C8H16O2
reactant | oleic acid | 75 g | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
reactant | potassium hydroxide | 130 g, pH11 | [OH-].[K+]
reactant | dipropylene glycol | 40 g | CC(COC(C)CO)O | C6H14O3
reactant | chlorogenic acid | 1 g | C1=CC(=C(C=C1/C=C/C(=O)O[C@@H]2C[C@@](C[C@H]([C@H]2O)O)(C(=O)O)O)O)O | C16H18O9
solvent | water | 626 g | O | H2O
solvent | water | 4 liters | O | H2O
product | EDTA | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
